US05834463
4-(Aminomethyl)-1-benzyl-5-(phthalimidoacetyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one hydrobromide
To a solution of 1-benzyl-4-(benzyloxy-carbonylamino methyl)-5-(phthalimidoacetyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one (1.51 g, 2.5 mol) in chloroform (20 mL) was added 25% hydrogen bromide-acetic acid solution (5 mL). The mixture was stirred for 25 minutes at room temperature, which was concentrated under reduced pressure. The concentrate was crystallized from ethanol-diethyl ether, followed by recrystallization from dichloromethane-ethanol-diethyl ether to afford the object compound (1.13 g, 82%), m.p.232°-234° C.

reactant | 1-benzyl-4-(benzyloxy-carbonylamino methyl)-5-(phthalimidoacetyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one | 2.5 mol, 1.51 g | C(C1=CC=CC=C1)N1C(CC(N(C2=C1C=CC=C2)C(CN2C(C=1C(C2=O)=CC=CC1)=O)=O)CNC(=O)OCC1=CC=CC=C1)=O | C35H30N4O6
reactant | hydrogen bromide acetic acid | 5 mL | Br.C(C)(=O)O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(Aminomethyl)-1-benzyl-5-(phthalimidoacetyl)-1,3,4,5-tetrahydro-1,5-benzodiazepin-2(2H)-one hydrobromide | 1.13 g, 82% | Br.NCC1N(C2=C(N(C(C1)=O)CC1=CC=CC=C1)C=CC=C2)C(CN2C(C=1C(C2=O)=CC=CC1)=O)=O | InChI=1S/C27H24N4O4.BrH/c28-15-19-14-24(32)29(16-18-8-2-1-3-9-18)22-12-6-7-13-23(22)31(19)25(33)17-30-26(34)20-10-4-5-11-21(20)27(30)35;/h1-13,19H,14-17,28H2;1H
